US04059587
Preparation of 7-[2-(3-Hydroxy-1-trans-octenyl)-4-oxo-3-thiazolidinyl]heptanoic Acid
This compound is prepared essentially by the method as described in Example 13, Step D, except that the 7-[2-(3-oxo-5-phenyl-1-trans-pentenyl)-4-oxo-3-thiazolidinyl]-heptanoic acid is replaced with 7-[2-(3-oxo-1-trans-octenyl)-4-oxo-3-thiazolidinyl]heptanoic acid. Chromatographic purification of the product resulting this method on silica gel affords the title compound as a pale yellow, viscous oil.

reactant | 7-[2-(3-oxo-5-phenyl-1-trans-pentenyl)-4-oxo-3-thiazolidinyl]-heptanoic acid | O=C(/C=C/C1SCC(N1CCCCCCC(=O)O)=O)CCC1=CC=CC=C1 | C21H27NO4S
reactant | 7-[2-(3-oxo-1-trans-octenyl)-4-oxo-3-thiazolidinyl]heptanoic acid | O=C(/C=C/C1SCC(N1CCCCCCC(=O)O)=O)CCCCC | C18H29NO4S
product | 7-[2-(3-Hydroxy-1-trans-octenyl)-4-oxo-3-thiazolidinyl]heptanoic Acid | OC(/C=C/C1SCC(N1CCCCCCC(=O)O)=O)CCCCC | C18H31NO4S
